US07034039B2
Tert-butyl[4-butoxy-6-(5-cyano-4-methyl-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.21 g, 0.4 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the residue was crystallized from ethyl acetate-diisopropyl ether to give 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carbonitrile hydrochloride (0.17 g, 94.4%) as crystals.

reactant | Tert-butyl[4-butoxy-6-(5-cyano-4-methyl-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.4 mmol, 0.21 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C#N)=O)CC(C)C)=O | C28H36N4O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carbonitrile hydrochloride | 0.17 g, 94.4% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C#N)=O)CC(C)C | InChI=1S/C23H28N4O2S.ClH/c1-5-6-9-29-21-18-10-16(22-26-15(4)20(12-25)30-22)7-8-17(18)23(28)27(13-14(2)3)19(21)11-24;/h7-8,10,14H,5-6,9,11,13,24H2,1-4H3;1H
